US06897231B2
B. 3-(3,4-Dimethoxyphenyl)-1H-indazole-5-carbonitrile
To a solution of 3-(3,4-dimethoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (550 mg, 1.51 mmol) in methanol (30 mL) was added 6 N HCl (30 mL). The solution was stirred at room temperature for 3 hours when water (80 mL) was added and the suspension filtered to give after drying, the title compound (390 mg, 93% yield). ES-MS (m/z) 280 [M+1]+.

reactant | 3-(3,4-dimethoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.51 mmol, 550 mg | COC=1C=C(C=CC1OC)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C21H21N3O3
reactant | HCl | 6 N, 30 mL | Cl | ClH
reactant | water | 80 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 3-(3,4-Dimethoxyphenyl)-1H-indazole-5-carbonitrile | 390 mg, 93% yield | COC=1C=C(C=CC1OC)C1=NNC2=CC=C(C=C12)C#N | C16H13N3O2
